US07517996B2
(Step 7) Synthesis of methyl {[2-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}phenyl)ethyl]thio}acetate
1-(2-Chlorophenyl)ethyl[3-(4-(2-chloroethyl)phenyl)isoxazolyl]carbamate (481 mg, 1.19 mmol) was dissolved in chloroform (10 ml), methyl thioglycolate (379 mg, 3.57 mmol), and triethylamine (600 mg, 5.93 mmol) were added, and the mixture was stirred overnight at 50° C. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give the title compound (190 mg, 34%).

reactant | 1-(2-Chlorophenyl)ethyl[3-(4-(2-chloroethyl)phenyl)isoxazolyl]carbamate | 1.19 mmol, 481 mg | ClC1=C(C=CC=C1)C(C)N(C([O-])=O)C=1C(=NOC1)C1=CC=C(C=C1)CCCl
reactant | methyl thioglycolate | 3.57 mmol, 379 mg | C(CS)(=O)OC | C3H6O2S
reactant | triethylamine | 5.93 mmol, 600 mg | C(C)N(CC)CC | C6H15N
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl {[2-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}phenyl)ethyl]thio}acetate | 190 mg, 34% | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1)C1=CC=C(C=C1)CCSCC(=O)OC | C23H23ClN2O5S
